US04555365
3,7,11,15,19,23,27,31,35,39-decamethyl-6,10,14,18,22,26,30,34,38-tetracontanonaenic acid amide
20 g of 3,7,11,15,19,23,27,31,35,39-decamethyl-6,10,14,18,22,26,30,34,38-tetracontanonaenic acid are dissolved in 100 ml of methylene chloride. To this solution, 6.9 g of N,N-dicyclohexylcarbodiimide are added with cooling at 0° C., and stirred for 1.0 hour. Ammonia gas is blown little by little into this solution during an hour. Stirring for 3.0 hours is performed at room temperature after the end of addition of ammonia. Mother liquor is condensed after filtering off N,N-dicyclohexylurea formed. The residue is subjected to silica gel column chromatography using benzene/ethyl acetate mixture for eluting solvent. The desired product was obtained as an oily substance light yellow in color (yield: 12.3 g). This oily substance was dissolved in 50 ml of acetone and left overnight in a refrigerator. The white crystals deposited were filtered off, dried and thus yielded 8.5 g of desired final product, acid amide derivative.

reactant | 3,7,11,15,19,23,27,31,35,39-decamethyl-6,10,14,18,22,26,30,34,38-tetracontanonaenic acid | 20 g | CC(CC(=O)O)CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C)C)C)C)C)C | C50H82O2
reactant | Ammonia | N | H3N
reactant | benzene ethyl acetate | C1=CC=CC=C1.C(C)(=O)OCC
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3,7,11,15,19,23,27,31,35,39-decamethyl-6,10,14,18,22,26,30,34,38-tetracontanonaenic acid amide | CC(CC(=O)N)CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C)C)C)C)C)C | C50H83NO
